### PR TITLE
[Merged by Bors] - feat: add ClassGroup.extendedHom

### PR DESCRIPTION
**Pull request by riccardobrasca**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
...
+        (FractionalIdeal.extendedHom_spanSingleton (FractionRing B) B _).symm)
+
+@[simp]
+lemma extendedHom_quotientMk (α : (FractionalIdeal A⁰ (FractionRing A))ˣ) :
+    extendedHom A B (QuotientGroup.mk α) = QuotientGroup.mk
+      (Units.map (FractionalIdeal.extendedHom (FractionRing B) B).toMonoidHom α) :=
+  rfl
+
+@[simp]
+theorem extendedHom_mk (I : (FractionalIdeal A⁰ (FractionRing A))ˣ) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: I'm not sure to understand why you prefer to avoid the API for class groups in the *definition* of the map: I would have defined two versions of it (the first parametrising on a choice of field of fractions, the second being a special case of the first using `K = FractionRing A`), simply using `ClassGroup.mk` (resp. `ClassGroup.mk0` in the Dedekind case); what you do instead is to define it somewhat abusing defeq (yet making the def public), and then provide this theorem. Can you explain your choice?

Comment (riccardobrasca) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: I am not sure I get the point: `ClassGroup.mk` is surjective, but I guess you don't want to see `...chose` in the definition of the map. The point is that the class group is a quotient, I am just using that. I agree I am using the definition and the 100% clean way of doing this would be to add an induction principle for class groups (that is just `QuotientGroup.map`) but it really seems an overkill. My point is that this is still basic API, so it's OK to use the definition. Then I 100% agree that this lemma is everything one needs to know about the map.

Comment (faenuccio) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: OK, I see what you mean. I agree that playing with the recursor to produce things out of the class group is a bit too much, and if I understand your point you're saying that this will be the definition and you'll develop the API so that one "never" takes a class and lifts it to an ideal before applying the `extendedHom`: I was then trying to remove the `@[expose]` tag from the section, making the definition you give *public* but not *exposed*. To see if this is a good improvement, I tried for a while to come up with a lemma whose proof would need to *unfold* your definition, to check that such a lemma could be proven in this module but could not be proved outside of this module as soon as your definition is not exposed. I run out of ideas, but if you come up with a test it would be nice to explore this idea, I think.

Comment (riccardobrasca) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Ah, I put the `expose` on autopilot, let me see if can come up with something.

Comment (faenuccio) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Sure, so do I: but I thought that since you're creating a brand new file it is worth trying playing with this new module system.

FWIW, I tried to remove the `expose` and to prove `extendedHom_quotientMk` in another file importing your new one. "Unfortunately" `rfl` was still a proof, so there is something I don't understand as I would have imagined that `rfl` would need to access the body. Hence my idea of trying to come up with a proof that "really" needs `unfold` (or `rw`) and check that
* in this files it builds, because it access the body
* in another file importing this it breaks.
This would be great, because it would "force" people to go through the API.

Comment (riccardobrasca) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Did you forget to start the file with `module`? Not using `module` implies exposing everything.

Comment (faenuccio) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: I don't remember...were you able to perform a test as I was suggesting?

Comment (riccardobrasca) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Yes, `rfl` doesn't work (there is no need to do it in another file, the definition it's now exposed even in the file where it is declared).

Comment (faenuccio) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Wait wait: do you mean that *since* it is exposed, `rfl` does not work?

Comment (riccardobrasca) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Yes, that is exactly the point of not exposing, the body is not accessible.

Comment (faenuccio) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: > Yes, `rfl` doesn't work (there is no need to do it in another file, the definition it's now exposed even in the file where it is declared).

Is this what you mean? Or perhaps
>Yes, `rfl` doesn't work (there is no need to do it in another file, the definition it's now NOT exposed even in the file where it is declared).

Comment (riccardobrasca) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Ah sorry, my bad. It's not exposed so `rfl` does not work. Indeed in the current proof I have to rewrite it before finishing with `rfl`.

Comment (faenuccio) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Overall I find it nicer, no? I will go on with the review later on today/tomorrow then.

Comment (riccardobrasca) [reply Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:65]: Yes I agree it's better.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 2]
```diff
@@ -165,6 +165,18 @@ theorem extended_coeIdeal_eq_map (I₀ : Ideal A) :
     exact Submodule.subset_span
       ⟨algebraMap A K a, mem_coeIdeal_of_mem M ha, IsLocalization.map_eq hf a⟩
 
+/-- The extension of a principal fractional ideal is principal. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean]:
```suggestion
/-- The extension of a principal fractional ideal is the principal ideal generated by the extension of a generator. -/
```

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
...
+-/
+module
+
+public import Mathlib.RingTheory.FractionalIdeal.Extended
+public import Mathlib.RingTheory.ClassGroup.Basic
+
+/-!
+# Class group map induced by an extension of domains
+
+For an extension `A → B` of commutative domains with injective algebra map (equivalently
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean]: Why don't you simply write "for an injective extension `A → B`?

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 4]
```diff
@@ -0,0 +1,87 @@
...
+`Module.IsTorsionFree A B`), we construct the monoid homomorphism
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean]:
```suggestion
`Module.IsTorsionFree A B`), we construct the group homomorphism
```

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 5]
```diff
@@ -0,0 +1,87 @@
...
+
+open scoped nonZeroDivisors
+
+variable (A B : Type*) [CommRing A] [IsDomain A] [CommRing B] [IsDomain B] [Algebra A B]
+  [Module.IsTorsionFree A B]
+
+namespace ClassGroup
+
+/-- The monoid homomorphism `ClassGroup A → ClassGroup B` induced by an
+extension of domains `A → B`. -/
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean]:
```suggestion
injective extension of domains `A → B`. -/
```

**Review by faenuccio — COMMENTED** [review]
I've left a couple of very minor comments, but overall I'm still slightly sceptical about the verbose definition. I'll be happy to be proven wrong if you can develop a basic API showing that actually you don't need to rely on the `def`. For instance, 
1. A smooth proof of the compatibility of the extension in a tower `C/B/A`
1. If the extension of every ideal is principal then this map is 0
1. The restriction of this map to the subgroup of ideal classes represented by primes in a set `S` maps to the subgroup of ideal classes represented by primes in the `extended '' S`.

All these results will at any rate be crucial.

**Comment by riccardobrasca** [comment]
> I've left a couple of very minor comments, but overall I'm still slightly sceptical about the verbose definition. I'll be happy to be proven wrong if you can develop a basic API showing that actually you don't need to rely on the `def`. For instance,
> 
>     1. A smooth proof of the compatibility of the extension in a tower `C/B/A`
> 
>     2. If the extension of every ideal is principal then this map is 0
> 
>     3. The restriction of this map to the subgroup of ideal classes represented by primes in a set `S` maps to the subgroup of ideal classes represented by primes in the `extended '' S`.
> 
> 
> All these results will at any rate be crucial.

I've added points 1 and 2. For point 3 there are probably 30 different ways to state it, and I don't think it makes much sense to do it now, it's better to add the specific version one needs (when needed).

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 6]
```diff
@@ -0,0 +1,117 @@
...
+    [Algebra A C] [IsScalarTower A B C] [Module.IsTorsionFree B C]
+    [Module.IsTorsionFree A C] (I : (Ideal A)⁰) :
+    extendedIdeal B C (extendedIdeal A B I) = extendedIdeal A C I := by
+  simp [Ideal.map_map, IsScalarTower.algebraMap_eq A B C]
+
+variable [IsDedekindDomain A]
+
+/-- `ClassGroup.mk0` factors through the canonical quotient projection on
+`(FractionalIdeal A⁰ (FractionRing A))ˣ`. -/
+lemma mk0_eq_quotientMk (I : (Ideal A)⁰) :
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean]: Is this the right place for this lemma? It has nothing to do with the extension...

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean [hunk 7]
```diff
@@ -152,6 +152,27 @@ theorem extended_mul : (I * J).extended L hf = (I.extended L hf) * (J.extended L
   · rcases Set.mem_mul.mp h with ⟨y, ⟨i, hi, rfl⟩, z, ⟨j, hj, rfl⟩, rfl⟩
     exact Submodule.subset_span ⟨i * j, mul_mem_mul hi hj, by simp⟩
 
+theorem extended_extended {C W : Type*} [CommRing C] [CommRing W] [Algebra C W]
```
Comment (faenuccio) [inline Mathlib/RingTheory/FractionalIdeal/Extended.lean:162]: Can't you use the variables `A, K, M,...` that are already in scope rather than creating these fresh ones? Also, I would add this to the docstring up in the file.

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 8]
```diff
@@ -0,0 +1,117 @@
...
+/-!
+# Class group map induced by an extension of domains
+
+For an injective extension `A → B` of commutative domains (equivalently `Module.IsTorsionFree A B`),
+we construct the group homomorphism `ClassGroup.extendedHom : ClassGroup A →* ClassGroup B` given by
+pushing fractional ideals forward along the algebra map.
+
+## Main definitions
+
+- `ClassGroup.extendedHom A B`: the induced map between the class groups.
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:20]: Now that you've added more results, this docstring could be expanded a bit.

**Review by faenuccio — COMMENTED** [review]
Thanks for your implementations, we're almost ready to go I believe.

File: Mathlib/RingTheory/FractionalIdeal/Extended.lean (hunk 7 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean:162]: It is already using all the variable in scope.

Comment (faenuccio) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean:162]: Oh right, sorry for the noise.

Comment (riccardobrasca) [reply Mathlib/RingTheory/FractionalIdeal/Extended.lean:162]: Maybe we can save one variable, I will have a look.

**Comment by riccardobrasca** [comment]
@faenuccio can you have another look? I get merge conflicts quite often and it's a bit annoying to fix them. Thanks!

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 9]
```diff
@@ -0,0 +1,125 @@
...
+public section
+
+open scoped nonZeroDivisors
+
+variable (A B : Type*) [CommRing A] [CommRing B] [Algebra A B]
+  [Module.IsTorsionFree A B]
+
+namespace ClassGroup
+
+section
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean]:
```suggestion
section CommRing
```
I'm suggesting to give explicit names to this section and to the one below (that does not exist yet).

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 10]
```diff
@@ -0,0 +1,125 @@
...
+      (mem_nonZeroDivisors_iff_ne_zero.mp I.2)⟩
+
+@[simp]
+theorem extendedIdeal_extendedIdeal (C : Type*) [CommRing C] [IsDomain C] [Algebra B C]
+    [Algebra A C] [IsScalarTower A B C] [Module.IsTorsionFree B C]
+    [Module.IsTorsionFree A C] (I : (Ideal A)⁰) :
+    extendedIdeal B C (extendedIdeal A B I) = extendedIdeal A C I := by
+  simp [Ideal.map_map, IsScalarTower.algebraMap_eq A B C]
+
+end
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean]:
```suggestion
end CommRing
```

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 11]
```diff
@@ -0,0 +1,125 @@
...
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:85]:
```suggestion

section DedekindDomain

```

File: Mathlib/RingTheory/ClassGroup/ExtendedHom.lean [hunk 12]
```diff
@@ -0,0 +1,125 @@
...
+  ext x
+  exact extendedHom_comp_apply A B C x
+
+theorem extendedHom_eq_one_of_forall_isPrincipal
+    (h : ∀ I : (Ideal A), (I.map (algebraMap A B)).IsPrincipal) : extendedHom A B = 1 := by
+  ext x
+  obtain ⟨I, rfl⟩ := ClassGroup.mk0_surjective x
+  rw [extendedHom_mk0, MonoidHom.one_apply]
+  exact (ClassGroup.mk0_eq_one_iff (extendedIdeal A B I).2).mpr (by simpa using h I)
+
```
Comment (faenuccio) [inline Mathlib/RingTheory/ClassGroup/ExtendedHom.lean:124]:
```suggestion

end DededkinDomain

```

**Review by faenuccio — COMMENTED** [review]
I'm sorry, I had forgotten this PR. I have reviewed it and it seems perfect now: thanks! I've left one minor comment about adding a section, and giving explicit names, but LGTM.

**Comment by faenuccio** [comment]
bors d+

**Comment by riccardobrasca** [comment]
bors merge
